US05216001
To 3-benzyloxypropionic acid (129.6 g) in ether (310 ml) and N,N-dimethylformamide (4 ml) was added thionyl chloride (155 ml). The solution was refluxed for 2 hours, and solvents and excess thionyl chloride were removed by evaporation in vacuo. Yield 132 g of 3-Benzyloxypropionic acid chloride as an oil. To an ice cooled solution of the thus prepared acid chloride (132 g) in acetone (450 ml) was added a cold solution of sodium azide (48.5 g) in water (200 ml) at 5° C. After additional stirring at 5° C. for 30 minutes, the mixture was poured into water and toluene, and the aqueous phase was extracted twice with toluene. The combined organic phases were washed with brine. After drying (magnesium sulfate) the solution was heated slowly to 85° C. on a steam bath until evolution of nitrogen ceased. The solvent was removed in vacuo leaving 108.4 g of 2-benzyloxyethylisocyanate as an oil. A mixture of 2-benzyloxy-ethylisocyanate (10 g) and diethanolamine (5.72 g) in dichloromethane (60 ml) was refluxed for 2.5 hours. After cooling to room temperature, the solution was washed with brine. Drying (magnesium sulfate) and evaporation of the solvent yielded 11.4 g of N-(2-benzyloxyethyl)-N',N'-di-(2-hydroxyethyl)-urea as an oil. A solution of the urea derivative (11.4 g) in dichloromethane (55 ml) was cooled to 5° C., and thionyl chloride (8.3 ml) was added at a temperature below 10° C. After the addition the mixture was refluxed for 1 hour and then left over night at room temperature. The solution was washed with cold sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in 1,1,1-trichloroethane and refluxed for 3 hours. After cooling the solution was washed with sodium hydrogen carbonate solution, dried over magnesium sulfate and evaporated in vacuo, yielding 6.6 g of the title compound 22a as an oil.

reactant | 2-benzyloxy-ethylisocyanate | 10 g | C(C1=CC=CC=C1)OCCN=C=O | C10H11NO2
reactant | diethanolamine | 5.72 g | N(CCO)CCO | C4H11NO2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-(2-benzyloxyethyl)-N',N'-di-(2-hydroxyethyl)-urea | 11.4 g | C(C1=CC=CC=C1)OCCNC(=O)N(CCO)CCO | C14H22N2O4
